US05506267
(6,7-bis(palmitoyloxy)-4-thiaheptanoyl)glycylglycylglycine t-butyl ester
To a solution of 6,7-bis(palmitoyloxy)-4-thiaheptanoic acid as obtained in Reference Example 4 (400 mg) and glycylglycylglycine t-butyl ester hydrochloride (149 mg) in dimethylformamide (6 ml), triethylamine (0.094 ml) and diethyl cyanophosphate (150 mg) were added at 0° C., followed by stirring at room temperature for 1 hour. After addition of water, the reaction mixture was extracted with chloroform. The extract was washed with a 5% aqueous solution of citric acid, a saturated aqueous solution of sodium hydrogen carbonate and saturated saline, and dried over anhydrous sodium sulfate, and the solvent was distilled off. The resulting residue was recrystallized (acetone-hexane) to yield the title compound (110 mg, yield 20%) as a wax-like substance.

reactant | 6,7-bis(palmitoyloxy)-4-thiaheptanoic acid | C(CCCCCCCCCCCCCCC)(=O)OC(CSCCC(=O)O)COC(CCCCCCCCCCCCCCC)=O | C38H72O6S
reactant | glycylglycylglycine t-butyl ester hydrochloride | 149 mg | Cl.C(C)(C)(C)OC(CNC(CNC(CN)=O)=O)=O
reactant | diethyl cyanophosphate | 150 mg | P(=O)(OCC)(OCC)C#N | C5H10NO3P
reactant | water | O | H2O
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 0.094 ml | C(C)N(CC)CC | C6H15N
product | (6,7-bis(palmitoyloxy)-4-thiaheptanoyl)glycylglycylglycine t-butyl ester | 110 mg, yield 20% | C(C)(C)(C)OC(CNC(CNC(CNC(CCSCC(COC(CCCCCCCCCCCCCCC)=O)OC(CCCCCCCCCCCCCCC)=O)=O)=O)=O)=O | C48H89N3O9S
